US09302989B2
5-acetamido-N-[4-(propylcarbamoyl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide
A solution of 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide (0.035 g, 0.103 mmol) in dimethylformamide (0.7 mL) was treated with N,N-diisopropylethylamine (0.018 mL, 0.103 mmol) followed by acetyl chloride (0.011 g, 0.134 mmol) and the reaction solution was stirred at room temperature for 16 hours. The reaction was concentrated and purified by reverse-phase HPLC to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.97 (s, 1H), 8.52 (s, 1H), 8.25 (t, J=5.7 Hz, 1H), 7.74-7.78 (m, 2H), 7.65-7.67 (m, 1H), 7.62-7.67 (m, 2H), 7.43 (dd, J=8.2, 1.9 Hz, 1H), 7.27 (d, J=8.2 Hz, 1H), 4.71-4.76 (m, 4H), 3.16-3.21 (m, 2H), 2.04 (s, 3H), 1.46-1.59 (m, 2H), 0.89 (t, J=7.4 Hz, 3H); MS (ESI(+)) m/e 381 (M+H)+.

reactant | 5-amino-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | 0.103 mmol, 0.035 g | NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C19H22N4O2
reactant | N,N-diisopropylethylamine | 0.103 mmol, 0.018 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 0.134 mmol, 0.011 g | C(C)(=O)Cl | C2H3ClO
solvent | dimethylformamide | 0.7 mL | CN(C=O)C | C3H7NO
product | 5-acetamido-N-[4-(propylcarbamoyl)phenyl]-1,3-dihydro-2H-isoindole-2-carboxamide | C(C)(=O)NC=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C21H24N4O3
